US07834063B2
C. 1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2-{[4-(methyloxy)phenyl]oxy}ethyl)glycinate
Synthesized as described in Example 70B from 4-[(2-{[4-(methyloxy)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile, excluding TFA deprotection of tert-butyl ester. Purified by flash chromatography (EtOAc/hexanes), obtained as a colorless gum: MS (APCI) m/z 451 (M+1).

reactant | 4-[(2-{[4-(methyloxy)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile | COC1=CC=C(C=C1)OCCNC1=CC(=C(C#N)C=C1)C(F)(F)F | C17H15F3N2O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2-{[4-(methyloxy)phenyl]oxy}ethyl)glycinate | C(#N)C1=C(C=C(C=C1)N(CC(=O)OC(C)(C)C)CCOC1=CC=C(C=C1)OC)C(F)(F)F | C23H25F3N2O4
